US03995045
A. 4-Phenyl-1-piperidinepropanamine, hydrochloride (1:2)
The above compound is prepared as described in Example 1A and B except that 4-phenylpiperidine is employed in place of 4-phenyl-1,2,3,6-tetrahydropyridine and chloropropionitrile is used in place of 4-bromobutyronitrile.

reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | chloropropionitrile | ClC(C#N)C | C3H4ClN
product | 4-Phenyl-1-piperidinepropanamine, hydrochloride | Cl.C1(=CC=CC=C1)C1CCN(CC1)CCCN | InChI=1S/C14H22N2.ClH/c15-9-4-10-16-11-7-14(8-12-16)13-5-2-1-3-6-13;/h1-3,5-6,14H,4,7-12,15H2;1H
